US06046201
N-(12-Hydroxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide
To a suspension of 0.055 g of 6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide, 0.011 g of tetrabutylammonium hydrogen sulfate, 0.11 g of sodium hydroxide and 0.05 g of potassium carbonate in 3 ml of toluene was added dropwise at 70° C. a solution of 12-bromododecanol in 2 ml of toluene and the mixture was stirred at 70° C. for 13 hours. The reaction solution was diluted with chloroform, washed with water and a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The residue thus obtained was chromatographed over a silica gel column to afford 0.025 g of the title compound.

reactant | 6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide | 0.055 g | C(C)N1CCN(CC1)C1=CC=C(C=N1)C(=O)N | C12H18N4O
reactant | sodium hydroxide | 0.11 g | [OH-].[Na+]
reactant | potassium carbonate | 0.05 g | C([O-])([O-])=O.[K+].[K+]
reactant | 12-bromododecanol | BrCCCCCCCCCCCCO | C12H25BrO
catalyst | tetrabutylammonium hydrogen sulfate | 0.011 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(12-Hydroxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide | 0.025 g | OCCCCCCCCCCCCNC(=O)C=1C=NC(=CC1)N1CCN(CC1)CC | C24H42N4O2
